Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Urinary Retention and worsening ___ weakness concerning for MS 
flare
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
The patient is a ___ gentleman with past medical history
of hepatitis C, multiple sclerosis managed with Copaxone who
presents with urinary retention,  abdominal pain and worsening
left lower extremity weakness.  

Briefly, patient states he was diagnosed with MS ___ years ago. 
He was initially started on interferon for ___ years, which was
then switched to Copaxone.  He is currently on Copaxone 20 daily
and follows with Dr. ___ at the ___ in ___. 
He reports getting usually 1 or 2 flare ups per year.  His usual
symptoms during these flareups urinary retention and worsening
bilateral lower extremity recent weakness.  His most recent
flareup was last week for which he presented to ___ 
___ ED where a Foley was placed to help with his urinary
retention and he received a one-time dose of methylprednisolone. 

He reports that his symptoms improved and decision was made to
discharge him home. 

Yesterday, at circa 4 ___ he was watching TV,  felt the urge to
urinate, took a cup ( he sometimes urinates into a cup) and
noticed that again he had some urinary retention.  He went to 
bed
and the following morning notices that his left leg  felt weaker
again ( has chronic right leg weakness). He called EMS and was
brought to ___. In the ED he was afebrile heart rate 120, 
blood
pressure 160/100 satting fine on room air. Bladder scan >999ml,
he was strait cathed, 150ml of clear yellow urine when urine 
flow
stopped. ___ Coude catheter placed w/ good urine flow/return. 
His
abdominal pain improved with after the foley.
Denies any changes in bowel habit. Denies ever having had double
vision, blurry vision, eye pain. 
No recent fevers, cough, sick contact. 

Endorses cocaine use, last cocaine use was several weeks ago.  
He
smokes it.  States he did IV drugs in the ___ but has not had
done it since.

 
Past Medical History:
MS 
___   
 
Social History:
___
Family History:
No family history of MS or neurologic disorders 
 
Physical Exam:
Physical Exam:
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation.
III, IV, VI: EOMI without nystagmus.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

- Motor - Normal bulk and increased tone in bilateral upper and
bilateral lower extremities. No drift. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     2    5      5      4     4    
 R   5     5     5     4+    2*   4*    *4    *3    *3   
* chronic 

-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+         
Plantar response flexor bilaterally. 

-Sensory: No deficits to light touch, pinprick, except on b/l
soles.
No extinction to DSS.

-Coordination: No intention tremor, No dysmetria on FNF 
bilaterally.

-Gait: Deferred

DISCHARGE PHYSICAL EXAMINATION: 
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation.
III, IV, VI: EOMI without nystagmus.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

- Motor - Normal bulk and increased tone in bilateral upper and
bilateral lower extremities. No drift. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     3    3      3      4     3    
 R   5     5     5     4+    3    4      3      3     3   

-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+         
Plantar response mute on R, upgoing on L 

-Sensory: No deficits to light touch, pinprick, except on b/l
soles.
No extinction to DSS. Has diminished proprioception and 
vibration in toes bilaterally 

-Coordination: No intention tremor, No dysmetria on FNF 
bilaterally.

-Gait: Deferred

 
Pertinent Results:
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 07:39AM    20.8*# 5.25 16.2 46.4 88 30.9 34.9 12.2 
39.8 159 Import Result 

 
___ 05:05AM    13.2* 5.52 16.7 48.4 88 30.3 34.5 12.5 
40.1 157 Import Result 

 
 DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas Im 
___ AbsLymp AbsMono AbsEos AbsBaso 
___ 07:39AM    86.7*   5.7* 6.6 0.0* 0.1     0.9* 
18.00*# 1.18* 1.38* 0.00* 0.02 Import Result 

 
___ 05:05AM    69.3   19.5 9.2 0.5* 0.5     1.0* 9.18* 
2.58 1.21* 0.06 0.06 Import Result 

 
 BASIC COAGULATION ___, PTT, PLT, INR) ___ PTT Plt Ct ___ 
___ 07:39AM        159   Import Result 

 
___ 07:39AM    12.0 33.2   1.1 Import Result 

 
___ 05:05AM        157   Import Result 

 
 

Chemistry 
 RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 07:39AM    158* 22* 0.8 136 3.5 98 24 18 Import 
Result 

 
___ 05:05AM    92 15 0.8 138 3.8 99 26 17 Import Result 

 
 ESTIMATED GFR (MDRD CALCULATION) estGFR 
___ 05:05AM    Using this Import Result 

 
 ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 07:39AM    59* 29     65   0.6   Import Result 

 
 CHEMISTRY TotProt Albumin Globuln Calcium Phos Mg UricAcd Iron 
___ 07:39AM      3.6   8.9 3.5 2.4     Import Result  
 
MR ___ /T spine with and without: 
 
1. Heterogeneous cord signal on T2 weighted imaging in the 
cervical level and 
scattered areas of T2 hyperintensities in the thoracic level 
without 
associated enhancement, most consistent with chronic 
demyelinating plaques. 
2. No evidence of cord compression. 
3. Incidental cysts above. 
  
MR BRAIN with and without : 
1. Heterogeneous cord signal on T2 weighted imaging in the 
cervical level and 
scattered areas of T2 hyperintensities in the thoracic level 
without 
associated enhancement, most consistent with chronic 
demyelinating plaques. 
2. No evidence of cord compression. 
3. Incidental cysts above. 

 
Brief Hospital Course:
___ gentleman with past medical history of hepatitis C, 
multiple sclerosis managed with Copaxone who presents with 
urinary retention, abdominal pain and worsening left lower 
extremity weakness. MRI brain and C-spine stable. Initially 
concern for MS flare and was started on IV Steroids (received 2 
days). However, he symptoms drastically improved following 
placement of foley catheter. In the end, worsened ___ symptoms 
felt to be a side effect of urinary retention. Subsequently was 
able to pee without cath, though did have elevated residuals 
(PVR in 200s). He was did not want further inpatient steroids 
and preferred to be followed on an outpatient basis by urology. 
Lastly, baclofen 10mg TID was started to improve spasticity in 
his bilateral lower extremities which the patient will continue 
on discharge. 

Transitional Issues:
- Likely transient worsening ___ urinary retention, less likely 
MS flare. Given rapid and drastic improvement, further steroids 
deferred.
- Outpatient Neurology f/u (patient to schedule with his 
outpatient neurologist Dr. ___ in ___
- Outpatient Urology f/u (patient to schedule via his PCP )
-Continue all other home medications, please start taking 
baclofen 10mg TID.  

 
Medications on Admission:
Copaxone 
Tamsulosin 0.4mg PO QHS
 
Discharge Medications:
1.  Baclofen 10 mg PO TID 
RX *baclofen 10 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*1 
2.  Copaxone (glatiramer) 20 mg/mL subcutaneous daily  
3.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Possible MS ___ versus worsened ___ symptoms in setting of 
Urinary retention
Neurogenic Bladder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
   You were hospitalized at ___ for symptoms of abdominal pain 
and worsened lower extremity weakness.  You were admitted and 
evaluated by the neurology team.  Your brain and Spine MRI was 
without evidence of new or active demyeination (No active MS 
lesions).  Additionally, while in the hospital you were 
retaining urine.  You initially had a foley ___, though this 
was able to be discontinued.
   You were treated with 2 day of IV steroids for a possible MS 
flare.  However, you drastically improved following the  
placement of a foley catheter.  Your doctors ___ think 
that your worsened  symptoms caused by your urinary retention.  
A MS flare is possible, but given your rapid and drastic 
improvement following correction of your urinary retention, this 
was felt to be less likely.  As such, it was felt to be safe to 
stop your steroids after 2 doses.
  Additionally, you were started on a medication called Baclofen 
to help with your spasticity.
  You were very interested in being discharged home quickly.  As 
you were much improved and there was no evidence of an active or 
new lesion, this was felt to be safe.  However, it is critical 
you follow-up with urology for further evaluation and management 
of your urinary issues.  It is likely that your bladder 
difficulties are causing transient worsening of your ___ 
symptoms.  You should also follow-up with your neurologist.

Should symptoms return or recur, please contact your physician 
or return to the ED for evaluation.

Sincerely, 
- Your ___ Care Team.
 
Followup Instructions:
___